US07524951B2
Acetic acid (0.23 ml) and 0.72 ml of a 1 M tetrahydrofuran solution of tetrabutylammonium fluoride was added to a solution of 0.14 g of allyl (1S,5R,6S)-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate in 2 ml of tetrahydrofuran, and the mixture was stirred at room temperature for 36 hr. The reaction mixture was diluted with 50 ml of ethyl acetate, and the diluted reaction solution was washed with a 50% aqueous sodium bicarbonate solution and 10% brine in that order. The organic layer was dried, and the solvent was then removed by evaporation. The resultant crude product was purified by column chromatography on silica gel (eluted with 10% methanol/ethyl acetate) to give 60.3 mg of allyl (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate. This product was analyzed by NMR. The results were in agreement with the results of analysis in Example 26.

reactant | Acetic acid | 0.23 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | allyl (1S,5R,6S)-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate | 0.14 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC=C)C1=O | C30H36N4O5SSi
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1 M | O1CCCC1 | C4H8O
product | allyl (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-methylcarbapen-2-em-3-carboxylate | 60.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC=C)C1=O | C24H22N4O5S
